US07799787B2
Step 3: N-(2-Cyclopropyl-2-hydroxyethyl)-6-{4-[2-(trifluoromethy)phenoxy]piperidin-1-yl}pyridazine-3-carboxamide
To a mixture of 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxylic acid (120 mg, 0.3 mmol), 2-amino-1-cyclopropylethanol (57 mg, 0.56 mmol) and HATU (249 mg, 0.65 mmol) in DMF (4 mL) was added N,N-diisopropylethylamine (285 μL, 3.4 mmol) at room temperature. The mixture was stirred at room temperature for 4 h, diluted with water and extracted with EtOAc. The EtOAc extract was washed with water, diluted twice with brine, dried (Na2SO4) and concentrated. CombiFlash chromatography (10 g, 90-100% EtOAc in hexanes in 20 min, 20 mL/min, 18 mL/fraction) gave the title compound as a light brown foam. 1H NMR (400 MHz, acetone-d6): δ 0.30-0.52 (m, 4H), 0.93-1.01 (m, 1H), 1.92-2.00 (m, 2H), 2.14-2.24 (m, 2H), 3.22-3.28 (m, 1H), 3.43-3.49 (m, 1H), 3.71-3.77 (m, 1H), 3.94-4.08 (m, 4H), 4.24 (d, 1H), 5.04 (m, 1H), 7.13 (t, 1H), 7.38 (m, 2H), 7.62-7.68 (m, 2H), 7.94 (d, 1H), 8.35 (s, 1H). MS (+ESI) m/z 451 (MH+).

reactant | 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxylic acid | 0.3 mmol, 120 mg | FC(C1=C(OC2CCN(CC2)C2=CC=C(N=N2)C(=O)O)C=CC=C1)(F)F | C17H16F3N3O3
reactant | 2-amino-1-cyclopropylethanol | 0.56 mmol, 57 mg | NCC(O)C1CC1 | C5H11NO
reactant | HATU | 0.65 mmol, 249 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 3.4 mmol, 285 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(2-Cyclopropyl-2-hydroxyethyl)-6-{4-[2-(trifluoromethy)phenoxy]piperidin-1-yl}pyridazine-3-carboxamide | C1(CC1)C(CNC(=O)C=1N=NC(=CC1)N1CCC(CC1)OC1=C(C=CC=C1)C(F)(F)F)O | C22H25F3N4O3
